US06576643B2
e) Ethyl (±)-10,11-dihydro-10-hydroxy-3-methoxydibenzo[b,f]oxepine-10-acetate
Anhydrous EtOAc (0.94 mL, 9.6 mmole) was added dropwise to a solution of lithium bis(trimethylsilyl)amide (1.0 M in THF, 7 mL, 7 mmole) in dry THF (7 mL) in a flame-dried flask at −78° C. under argon. After 0.5 hr, TMEDA (2.4 mL, 16 mmole) was added. After another 5 min, a solution of 3-methoxydibenzo[b,f]oxepin-10-one (760 mg, 3.2 mmole) in THF (2 mL) was added dropwise over 3 min. Additional dry THF (0.4 mL) was used in transfer. The reaction was stirred at −78° C. to −40° C. for 1 hr, then was quenched with saturated NH4Cl (10 mL). The mixture was wanned to RT and extracted with EtOAc. Drying (MgSO4), concentration, and flash chromatography on silica gel (10% EtOAc/hexanes) gave the title compound as a clear oil: 1H NMR (300 MHz, CDCl3) δ1.14-1.20 (t, 3 H), 1.21-1.30 (m, 1 H), 2.62-2.68 (dd, 1 H), 2.94-3.02 (dd, 1 H), 3.24-3.30 (dd, 1 H), 3.40-3.46 (dd, 1 H), 3.40-3.46 (dd, 1 H), 3.78 (s, 3 H), 4.08-4.18 (m, 2 H), 6.60-7.26 (m, 6 H), 7.64-7.68 (dd, 1 H).

reactant | EtOAc | 9.6 mmole, 0.94 mL | CCOC(=O)C | C4H8O2
reactant | lithium bis(trimethylsilyl)amide | 7 mmole, 1.0 M, 7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | TMEDA | 16 mmole, 2.4 mL | CN(C)CCN(C)C | C6H16N2
reactant | 3-methoxydibenzo[b,f]oxepin-10-one | 3.2 mmole, 760 mg | COC=1C=CC2=C(OC3=C(C(C2)=O)C=CC=C3)C1 | C15H12O3
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 0.4 mL | C1CCOC1 | C4H8O
product | Ethyl (±)-10,11-dihydro-10-hydroxy-3-methoxydibenzo[b,f]oxepine-10-acetate | OC1(CC2=C(OC3=C1C=CC=C3)C=C(C=C2)OC)CC(=O)OCC | C19H20O5
